US04254122
Methyl N-[1-(amino)-1-(methylthio)methylene]carbamate (14.8 g.) was dissolved in methylene chloride (150 ml.). 3-Trifluoromethylphenyl isocyanate (18.7 g.) was added to the solution during 5 minutes and the mixture was stirred at room temperature for 2.5 hours. A freshly prepared solution of sodium (2.3 g.) in methanol (20 ml.) was then added during 5 minutes and the subsequent mixture was stirred at room temperature for 16 hours. The mixture was then evaporated and the residue was dissolved in water (400 ml.). The aqueous solution obtained, was extracted with ethyl acetate (2×400 ml.) to remove neutral byproducts, and then acidified with concentrated hydrochloric acid to pH1. The solid which precipitated was separated by filtration, washed with water (3×500 ml.), and dried (over phosphorus pentoxide) to give 3-(3-trifluoromethylphenyl)-6-methylthio-tetrahydro-1,3,5-triazine-2,4-dione (25.9 g., 86%) as a white solid, m.p. 225°-228° C.

reactant | Methyl N-[1-(amino)-1-(methylthio)methylene]carbamate | 14.8 g | NC(SC)=NC(OC)=O | C4H8N2O2S
reactant | 3-Trifluoromethylphenyl isocyanate | 18.7 g | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
reactant | sodium | 2.3 g | [Na] | Na
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
product | 3-(3-trifluoromethylphenyl)-6-methylthio-tetrahydro-1,3,5-triazine-2,4-dione | 25.9 g, 86% | FC(C=1C=C(C=CC1)N1C(NC(NC1=O)SC)=O)(F)F | C11H10F3N3O2S
